*$ model description: "awbha2420"
*b Device model created by analog_uprev for ha2420 on Tue Feb 27 17:32:17 IST 2001
.subckt awbha2420   50 11 21 4 8 60 12 9 2 19
+ params:
+ AVOL=80
+ IB=4.0e-8
+ IBOS=1.0e-8
+ IDR=.6e-12
+ KDR=7e-2
+ SR=5.0
+ VOS=2.0e-3
xinstha2420   50 11 21 4 8 60 12 9 2 19 model708_ha2420    params:  avol={AVOL}
+  ib={IB}
+  ibos={IBOS}
+  idr={IDR}
+  kdr={KDR}
+  sr={SR}
+  vos={VOS}
+ 
.ends  awbha2420
*$ end model description: "awbha2420"
*
*
*$ model description: "awbha5320"
*a Device model created by analog_uprev for ha5320 on Tue Feb 27 17:32:17 IST 2001


.subckt awbha5320   2 5 4 9 8 6 99 11 13 10
* .SUBCKT HA5320 2 99 4 5 6 8 9 10 11 13
*                A  G C B F E D  J  H  I
* A    CP    2         * E    SIG GND  8
* G    GND   99        * D    S_H      9
* C    IN+   4         * J    V+       10
* B    IN-   5         * H    V-       11
* F    INT   6         * I    VOUT     13
*
*  BUFFER
RDIN1    9    10             1.5E6
RB1D     10   22             100K
MB1      22   9    99   99   NM1 L=1U W=2M
*  FOR APERTURE TIME
RAP      22   23             250K
CAP      23   99             0.1P
EB2G     25   99   POLY(2) 10 99 23 99
+                    0 1 -1
MB2      7    25   99   99   MSW L=1U W=2
RB2D     26   7              100K
DZO      7    27             DZO
RZO      27   99             1MEG
VB2D     26   99             11
*  AMP1
CIN      4    5              1P
EVOFF    4    31   34   0    -0.48M
IVOFFT   0    34             1E-2
RVOFFT   0    34             1E2 TC=0.025 0
Q1       16   31   18        TA1
Q2       33   5    19        TA2
IEE      17   11             156U
DVINRG   35   17             D
VINRGN   35   11             3
VINRGP   10   36             2.3
DINP     5    36             D
DINN     4    36             D
RC1      36   16             22.951K
RC2      36   33             22.951K
RE1      18   17             22.619K
RE2      19   17             22.619K
GAMP1    12   99   33  16    1.4767E-3
RAMP1    12   99             10K
GCMMR    99   12   POLY(2)   4 99 5 99
+                   0 0.633E-8 -0.633E-8
*  SWITCH
GSW      12   2    POLY(2) 12 2  27 99
+                        0 0 0 0 1
RLEAK    99   2              100MEG
CH       13   2              100P
*   CP IS FOR CHARGE TRANSFER
CP       2    22             0.028P
*   C_HDFD IS FOR HOLD MODE FEEDTHROUGH
CHDFD    2    12             2.135F
*  AMP2
RA2IN    8    99             1
IA2IN    99   8              100P
RAMP2    6    99             100K
GAMP2    6    99   2   8     1.3544
CAMP2    6    99             89.1N
EVOP2    54   99   10  99    -2.42    
EVON2    55   99   11  99    2.42     
*DCLP2    6    54             D
DCLP2    54    6             D
DCLN2    55   6              D
ROUT     57   99             1
GOUT     99   57   6   99    1
VIOUT    13   57             0
RL       13   99             1MEG
RWER     10   11             2727.3
FPWER    10   99   VIOUT     1
.MODEL  NM1  NMOS  VTO=0.8
.MODEL  MSW  NMOS  VTO=7.5
.MODEL  D    D     IS=1.0E-10 N=0.66667
* SPECTRE: + IMAX=1000
.MODEL  DZO  D     IS=1.0E-14
* SPECTRE: + IMAX=1000
.MODEL  TA1  NPN   IS=8.0E-16 BF=917.65
.MODEL  TA2  NPN   IS=8.0E-16 BF=1418.18
.ends
*$ end model description: "awbha5320"
*
*
*$ model description: "awblf398h"
*a Device model created by analog_uprev for lf398h on Tue Feb 27 17:32:17 IST 2001


.subckt awblf398h   3 8 7 4 6 5 1
*  INPUT STAGE
VOS 10 3 DC 2E-3
EPR 11 10 1 4 3.162E-6
RIN 11 100 1E+10
GIB 100 3 16 0 1E-9
IIB 0 16 1
RIB 16 0 3.5 TC=-.02762 3.81E-5
*  INTERMEDIATE STAGE
EA 12 100 11 100 1
MSD 12 13 14 15 SDS
RMS 15 100 1MEG
ES 13 100 21 22 500
RC 14 6 300
RCC 6 100 5E+11
CF 3 14 0.32P
* LOGIC CONTROL
RL 8 7 1.5E+6
EL 20 0 8 7 1
RE 20 21 70
DL 24 20 DMOD
RDL 21 24 3.5
VE 23 0 1
CC 21 6 2P
CE 21 22 0.1U
DE 21 23 DMOD
VL 22 0 1.4
* OUTPUT STAGE
ERF 1 100 1 4 .5
DD1 31 32 MID
DD2 33 31 MID
VF2 32 100 0
VF3 100 33 0
FF1 100 31 VF1 1
GOT 100 34 45 100 2
ROT 100 34 0.5
RO1 1 5 200MEG
RO2 5 4 200MEG
RAC 34 35 0.1
VF1 35 5 0
RP1 1 100 3.5K
RP2 4 100 3.5K
FF2 100 1 VF2 -1
FF3 4 100 VF3 -1
* OUTPUT SHORT CIRCUIT CURRENT
GR 100 45 6 100 1E-3
RR 100 45 1K
MD1 45 42 100 43 SDS
MD2 45 44 100 43 SDS
RNM 43 100 1MEG
HF1 42 100 POLY(1) VF1 -65 5000
HF2 44 100 POLY(1) VF1 -32.5 -5000
.MODEL SDS NMOS KP=1
.MODEL DMOD D
* SPECTRE: + IMAX=1000
.MODEL MID D
* SPECTRE: + IMAX=1000
.ends
*$ end model description: "awblf398h"
*
*
*$ model description: "awblf398j"
*a Device model created by analog_uprev for lf398j on Tue Feb 27 17:32:17 IST 2001


.subckt awblf398j   3 8 7 4 6 5 1
*  INPUT STAGE
VOS 10 3 DC 2E-3
EPR 11 10 1 4 3.162E-6
RIN 11 100 1E+10
GIB 100 3 16 0 1E-9
IIB 0 16 1
RIB 16 0 3.5 TC=-.02762 3.81E-5
*  INTERMEDIATE STAGE
EA 12 100 11 100 1
MSD 12 13 14 15 SDS
RMS 15 100 1MEG
ES 13 100 21 22 500
RC 14 6 300
RCC 6 100 5E+11
CF 3 14 0.32P
* LOGIC CONTROL
RL 8 7 1.5E+6
EL 20 0 8 7 1
RE 20 21 70
DL 24 20 DMOD
RDL 21 24 3.5
VE 23 0 1
CC 21 6 2P
CE 21 22 0.1U
DE 21 23 DMOD
VL 22 0 1.4
* OUTPUT STAGE
ERF 1 100 1 4 .5
DD1 31 32 MID
DD2 33 31 MID
VF2 32 100 0
VF3 100 33 0
FF1 100 31 VF1 1
GOT 100 34 45 100 2
ROT 100 34 0.5
RO1 1 5 200MEG
RO2 5 4 200MEG
RAC 34 35 0.1
VF1 35 5 0
RP1 1 100 3.5K
RP2 4 100 3.5K
FF2 100 1 VF2 -1
FF3 4 100 VF3 -1
* OUTPUT SHORT CIRCUIT CURRENT
GR 100 45 6 100 1E-3
RR 100 45 1K
MD1 45 42 100 43 SDS
MD2 45 44 100 43 SDS
RNM 43 100 1MEG
HF1 42 100 POLY(1) VF1 -65 5000
HF2 44 100 POLY(1) VF1 -32.5 -5000
.MODEL SDS NMOS KP=1
.MODEL DMOD D
* SPECTRE: + IMAX=1000
.MODEL MID D
* SPECTRE: + IMAX=1000
.ends
*$ end model description: "awblf398j"
*
*
