* Fixed PCR-800550: modified this file for Reserved Keywords, ramant
*$
*DEVICE TYPE: DC
*MODEL TYPE: 132
*DEVICE NAME:DC TRANSFORMER
*PORT_ORDER:	"A"  "B" "C" "D"
.SUBCKT AWB_DC 1 2 3 4
+PARAMS:
+ PRI_TURNS = 1
+ ROUT = 10M
+ SEC_TURNS = 1
EDUMMY1 AWBDC_DUMMY1 0 VALUE ={1} ERROR={ERROR(PRI_TURNS==0,"ZERO VALUED COMPONENT")}
EDUMMY2 AWBDC_DUMMY2 0 VALUE ={1} ERROR={ERROR(SEC_TURNS==0,"ZERO VALUED COMPONENT")}
ROUT1 5 6 {ROUT}
FI1 1 2 VIC1 1
EV1 5 3 1 2 {SEC_TURNS/PRI_TURNS}
VIC1 6 4 0.0
.ENDS AWB_DC
*$
*DEVICE TYPE: VC_RES
*MODEL TYPE: 109
*DEVICE NAME:VOLTAGE CONTROLLED RESISTOR
*PORT_ORDER: A B C D
.SUBCKT AWBVC_RES  5 3 4 1 PARAMS: RES=1K
EV12 2 4 POLY(2) 1 2 5 3 0 0 0 0 1MEG
RR3 2 1 {1E-6*{RES}}
.ENDS AWBVC_RES
*$
*DEVICE TYPE: DELAY_2_TERM
*MODEL TYPE: 40
*DEVICE NAME: DELAY_2_TERM
*PORT_ORDER:	A B
.SUBCKT AWB_DELAY2TERM 1 4 PARAMS: 
+ DELAY_TIME = 0
+ IMPEDANCE = 100
+ INSERT_LOSS = 0
+ Q = 100
.PARAM DB_D2T = {DELAY_TIME*INSERT_LOSS/.000001}
.PARAM ALPHA_D2T = {PWR(10.0,(-(DB_D2T/40.0)))}
.PARAM YIN_D2T = {(1+ALPHA_D2T*ALPHA_D2T)/(1-ALPHA_D2T*ALPHA_D2T)}
.PARAM G_D2T = {(2.0*ALPHA_D2T)/(1-ALPHA_D2T*ALPHA_D2T)}
.PARAM REQ_D2T = {IMPEDANCE/2.0}
.PARAM C_D2T = {DELAY_TIME/(3.141592653*Q*REQ_D2T)}	;DENOM:(2 * mod_pi * .50 * Q * REQ)
.PARAM R_D2T = {IMPEDANCE/YIN_D2T}
.PARAM GM_D2T = {G_D2T/IMPEDANCE}
R1  1 0 {R_D2T}
C1  1 0 {C_D2T}
G1  0 1 2 0 {GM_D2T}
G2  0 2 1 0 {GM_D2T}
R2  2 0 {R_D2T}
T1  2 0 3 0 Z0={IMPEDANCE} TD={DELAY_TIME}
R3  3 0 {R_D2T}
G3  0 3 4 0 {GM_D2T}
G4  0 4 3 0 {GM_D2T}
R4  4 0 {R_D2T}
C4  4 0 {C_D2T}
.ENDS AWB_DELAY2TERM
*$
* DEVICE TYPE: DELAY
* MODEL TYPE: 47
* DEVICE NAME: DELAY_3_TERM 
* PORT ORDEER "IN" "OUT" "SHLD"
.SUBCKT AWB_DELAY3TERM 1 4 5 
+ PARAMS:   DELAY_TIME=0 
+  IMPEDANCE=100
+  INSERT_LOSS=0
+  Q=100
.PARAM DB_D3T= {DELAY_TIME*INSERT_LOSS/.000001}
.PARAM ALPHA_D3T = {PWR(10.0,(-(DB_D3T/40.0)))}
.PARAM YIN_D3T= {(1+ALPHA_D3T*ALPHA_D3T)/(1-ALPHA_D3T*ALPHA_D3T)}
.PARAM G_D3T = {(2.0*ALPHA_D3T)/(1-ALPHA_D3T*ALPHA_D3T)}
.PARAM REQ_D3T= {IMPEDANCE/2.0}
.PARAM CVALUE_D3T = {DELAY_TIME/(mod_pi*Q*REQ_D3T)}	;DENOM:(2 * mod_pi * .50 * Q * REQ)
.PARAM RVALUE_D3T = {IMPEDANCE/YIN_D3T}
.PARAM GM_D3T= {G_D3T/IMPEDANCE}
R1  1 5 {RVALUE_D3T}
C1  1 5 {CVALUE_D3T}
G1  5 1 2 5 {GM_D3T}
G2  5 2 1 5 {GM_D3T}
R2  2 5 {RVALUE_D3T}
T1  2 5 3 5 Z0={IMPEDANCE}  TD={DELAY_TIME}
R3  3 5 {RVALUE_D3T}
G3  5 3 4 5 {GM_D3T}
G4  5 4 3 5 {GM_D3T}
R4  4 5 {RVALUE_D3T}
C4  4 5 {CVALUE_D3T}
.ENDS AWB_DELAY3TERM
*$
*DEVICE TYPE: VC_IND
*MODEL TYPE: 133
*DEVICE NAME:VOLTAGE CONTROLLED INDUCTOR
*PORT_ORDER:	"A" "B" "C" "D"
.SUBCKT AWBVC_IND 5 6 4 3  
+ PARAMS: IND = 1M
EDUMMY AWBVCIND_DUMMY 0 VALUE={1} ERROR={ERROR(IND==0.0, "ZERO VALUED COMPONENT")}
GI2 0 2 3 4 100
RR2 0 2 100.000000G TC=0 0
II3 1 0 100
GI4 0 1 POLY(2) 5 6 1 0 0 0 0 0 100 0 0 0 0 0
RR3 0 1 100.000000MEG TC=0 0
RR1 4 3 10.000000G TC=0 0
GI1 3 4 POLY(2) 2 0 1 0 0 0 0 0 10.000000M 0 0 0 0 0
CC1 2 0 {IND} TC=0
.ENDS AWBVC_IND
*$
*DEVICE TYPE: VC_CON
*MODEL TYPE: 110
*DEVICE NAME:VOLTAGE CONTROLLED CONDUCTOR
*PORT_ORDER: "A" "B" "C" "D"
.SUBCKT AWBVC_CON 2 1 3 4 
+ PARAMS: CON=1M
.PARAM mod_temp ={CON*1E-9}
RR5 3 4 100.000000MEG TC=0 0
GI4 4 3 VALUE={mod_temp + (CON)*V(4,3)*V(2,1)}
EDUMMY AWBVCCON_DUMMY 0 VALUE ={1} ERROR={ERROR(CON==0.0,"ZERO VALUED COMPONENT")}
.ENDS AWBVC_CON
*$
*MODEL TYPE : 108
*DEVICE TYPE : VC_CAP
*NAME : VOLTAGE CONTROLLED CAPACITANCE
*PORT ORDER A B C  D
.SUBCKT AWBVC_CAP 4 3 9 7 
+ PARAMS:CAP=1U
EDUMMY AWBVC_CAP_DUMMY 0 VALUE={1} ERROR={ERROR(CAP==0.0, "ZERO VALUED COMPONENT")}
II3 2 0 100
EV2 8 9 POLY(2) 6 0 2 0 0 0 0 0 1 0 0 0 0 0
GI1 0 6 7 8 100K
GI2 0 2 POLY(2) 4 3 2 0 0 0 0 0 100 0 0 0 0 0
RR1 8 7 10U
RR2 0 6 100G 
RR3 0 2 100MEG 
CC1 6 0 {CAP} 
.ENDS AWBVC_CAP
*$
*A DEVICE MODEL CREATED BY ANALOG_UPREV FOR SUM ON THU SEP 26 14:53:11 IST 2002
*DEVICE TYPE: SUM
*MODEL TYPE: 100
*DEVICE NAME:SUM
*PORT_ORDER:	"IN1" "IN2"	"OUT"
.SUBCKT AWBSUM   1 2 3 
EADD 3 0 POLY(2) 1 0 2 0 0 1 1
ROUT 3 0 1MEG
.ENDS AWBSUM
*$
*DEVICE TYPE: DIFFERENCE
*MODEL TYPE: 102
*DEVICE NAME:DIFFERENCE
*PORT_ORDER:	"IN1" "IN2"	"OUT"
.SUBCKT AWBDIFFERENCE 1 2 3
EADD 3 0 POLY(2) 1 0 2 0 0 1 -1
ROUT 3 0 1MEG
.ENDS AWBDIFFERENCE
*$
*DEVICE TYPE: MULTIPLIER
*MODEL TYPE: 101
*DEVICE NAME:MULTIPLIER
*PORT_ORDER:	"IN1" "IN2"	"OUT"
.SUBCKT AWBMULTIPLIER 1 2 3
EMULT 3 0 POLY(2) 1 0 2 0 0 0 0 0 1
ROUT 3 0 1MEG
.ENDS AWBMULTIPLIER
*$
*DEVICE TYPE: DIVIDER
*MODEL TYPE: 107
*DEVICE NAME:DIVIDER
*PORT_ORDER:	"IN1" "IN2"	"OUT"
.SUBCKT AWBDIVIDER 10 8 3 
GI1 0 1 10 0 100
RR3 0 1 100.0MEG TC=0 0
GI3 1 0 POLY(2) 1 0 8 0 0 0 0 0 100 0 0 0 0 0
EV1 3 0 1 0 1
RR1 0 3 1.0K TC=0 0
.ENDS AWBDIVIDER
*$
*MODEL TYPE : 42
*DEVICE TYPE : INTEGRATOR
*NAME : INTEGRATOR
*PORT ORDER	        IN  OUT
.SUBCKT AWB_INTEGRATOR 1 2
+PARAMS: GAIN = 1
EDUMMY AWBINT_DUMMY 0 VALUE={1} ERROR={ERROR(GAIN==0.0, "ZERO VALUED COMPONENT")}
RIN1 1 4 2
RIN2 1 4 2
G1   2 0 4 0 {-GAIN}
R1   2 0 1000000000000
C1   2 0 1
.ENDS AWB_INTEGRATOR
*$
*MODEL TYPE : 43
*DEVICE TYPE : DIFFERENTIATOR
*NAME : DXDT
*PORT ORDER     A   B
.SUBCKT AWB_DIFFRNTIATOR 6   2 
+PARAMS: GAIN = 10
CC1 8 0 {GAIN}
EDUMMY AWBDIFR_DUMMY 0 VALUE={1} ERROR={ERROR(GAIN==0.0, "ZERO VALUED COMPONENT")}
EV1 2 0 4 0 1
RR3 0 2 1.000000K TC=0 0
RR2 0 4 100.000000MEG TC=0 0
RR1 0 8 10.000000G TC=0 0
GI2 0 4 POLY(2) 6 0 8 0 0 1 -10.000000M 0 0 0 0 0 0 0
GI1 0 8 4 0 100
.ENDS AWB_DIFFRNTIATOR
*$
*MODEL TYPE : 41
*DEVICE TYPE : GAIN
*NAME : GAIN
*PORT ORDER	       "IN" "OUT"
.SUBCKT AWBGAIN 1 2
+PARAMS: GAIN = 1
RIN1 1 3 2
RIN2 1 3 2
E1   2 0 3 0 {GAIN}
ROUT 2 0 100MEG
EDUMMY AWBGAIN_DUMMY 0 VALUE={1} ERROR={ERROR(GAIN==0.0, "ZERO VALUED COMPONENT")}
.ENDS AWBGAIN
*$
* MODEL_TYPE=120
* SYMBOL_NAME=COMPLEX_POLE
* TERM(A)=1 - IN
* TERM(B)=2 - OUT
.SUBCKT AWBCOMPLEX_RIO 1 2 PARAMS: HP_GAIN=0 BP_GAIN=0 LP_GAIN=1 REAL_HZ=1 IMAG_HZ=1
.PARAM ALFA={REAL_HZ}
.PARAM BETA={IMAG_HZ}
.PARAM mod_pi=3.14159265
.PARAM NAT_FREQ={{ALFA*ALFA + BETA*BETA}^0.5}
.PARAM OMEGA={2*mod_pi*NAT_FREQ}
.PARAM DAMPING={ALFA/NAT_FREQ}
.PARAM L_AND_C={1/OMEGA}
.PARAM R={2*DAMPING + 1E-6}
.PARAM A0={HP_GAIN*OMEGA*OMEGA}
.PARAM A1={{BP_GAIN*OMEGA}/R}
.PARAM A2={LP_GAIN}
.PARAM TMP1={IF(HP_GAIN > BP_GAIN,HP_GAIN,BP_GAIN)}
.PARAM TMP2={IF(TMP1 < LP_GAIN,LP_GAIN,TMP1)}
.PARAM TMP3={1E10/TMP2}
.PARAM BIG_R={IF(TMP3 < 1E8,TMP3,1E8)}
.PARAM MAX_A1={IF(A0 > A1,A0,A1)}
.PARAM MAX_A={IF(MAX_A1 < A2,A2,MAX_A1)}
.PARAM MAX_A_SQRT={MAX_A^0.5}
.PARAM A0_DIV_SQRT={A0/MAX_A_SQRT}
.PARAM A1_DIV_SQRT={A1/MAX_A_SQRT}
.PARAM A2_DIV_SQRT={A2/MAX_A_SQRT}
.PARAM ER1 ={IF({LP_GAIN}==0,IF({HP_GAIN}==0,IF({BP_GAIN}==0,1,0),0),0)}
.PARAM ER2 ={IF({LP_GAIN}<0,1,(IF({BP_GAIN}<0,1,(IF({HP_GAIN}<0,1,0)))))}
RIN1 1 8 2
RIN2 1 8 2
E1   3 0 8 0 {MAX_A_SQRT}
L1   3 4 {L_AND_C}
R1   4 5 {R}
C1   5 0 {L_AND_C}
EHP  2 6 3 4 {A0_DIV_SQRT}
EBP  6 7 4 5 {A1_DIV_SQRT}
ELP  7 0 5 0 {A2_DIV_SQRT}
ROUT 2 0 {BIG_R}
EDUMMY1 AWBCOMPLEX_RIO_DUMMY1 0 VALUE ={1} ERROR={ERROR(ER1==1,"ATLEAST ONE GAIN EXPECTED TO BE NON-ZERO")}
EDUMMY2 AWBCOMPLEX_RIO_DUMMY2 0 VALUE ={1} ERROR={ERROR(ER2==1,"NEGATIVE VALUED COMPONENT")}
EDUMMY3 AWBCOMPLEX_RIO_DUMMY3 0 VALUE ={1} ERROR={ERROR(ALFA<=0,"Pole Location expected to be greater than Zero")}
.ENDS AWBCOMPLEX_RIO
*$
* MODEL_TYPE=45
* SYMBOL_NAME=COMPLEX_POLE
* TERM(A)=1 - IN
* TERM(B)=2 - OUT
.SUBCKT AWBCOMPLEX_FZO 1 2 PARAMS: HP_GAIN=0 BP_GAIN=0 LP_GAIN=1 FREQ_HZ=1 DAMPING=1
.PARAM mod_pi=3.14159265
.PARAM NAT_FREQ={FREQ_HZ} 
.PARAM OMEGA={2*mod_pi*NAT_FREQ}
.PARAM L_AND_C={1/OMEGA}
.PARAM R={2*DAMPING}
.PARAM A0={HP_GAIN*OMEGA*OMEGA}
.PARAM A1={{BP_GAIN*OMEGA}/R}
.PARAM A2={LP_GAIN}
.PARAM TMP1={IF(HP_GAIN > BP_GAIN,HP_GAIN,BP_GAIN)}
.PARAM TMP2={IF(TMP1 < LP_GAIN,LP_GAIN,TMP1)}
.PARAM TMP3={1E10/TMP2}
.PARAM BIG_R={IF(TMP3 < 1E8,TMP3,1E8)}
.PARAM MAX_A1={IF(A0 > A1,A0,A1)}
.PARAM MAX_A={IF(MAX_A1 < A2,A2,MAX_A1)}
.PARAM MAX_A_SQRT={MAX_A^0.5}
.PARAM A0_DIV_SQRT={A0/MAX_A_SQRT}
.PARAM A1_DIV_SQRT={A1/MAX_A_SQRT}
.PARAM A2_DIV_SQRT={A2/MAX_A_SQRT}
.PARAM ER ={IF({LP_GAIN}==0,IF({HP_GAIN}==0,IF({BP_GAIN}==0,1,0),0),0)}
RIN1 1 8 2
RIN2 1 8 2
E1   3 0 8 0 {MAX_A_SQRT}
L1   3 4 {L_AND_C}
R1   4 5 {R}
C1   5 0 {L_AND_C}
EHP  2 6 3 4 {A0_DIV_SQRT}
EBP  6 7 4 5 {A1_DIV_SQRT}
ELP  7 0 5 0 {A2_DIV_SQRT}
ROUT 2 0 {BIG_R}
EDUMMY1 AWBCOMPLEX_FZO_DUMMY1 0 VALUE ={1} ERROR={ERROR(ER==1,"ATLEAST ONE GAIN EXPECTED TO BE NON-ZERO")}
.ENDS AWBCOMPLEX_FZO
*$
*MODEL_TYPE=44
*SYMBOL_NAME=REAL_POLE
*TERM(A)=1 -- IN
*TERM(B)=2 -- OUT
.SUBCKT AWBREALPOLE 1 2
+ PARAMS: GAIN =1 FREQ_HZ = 1K
.PARAM PLOC = {FREQ_HZ}
.PARAM SCALED_GAIN = {GAIN}
.PARAM TMP = {1.0E10/SCALED_GAIN}
.PARAM ENG_BIG_R={IF(TMP<1.0E8,TMP,1.0E8)}
.PARAM mod_pi = {3.1415926535897932384626433832795}
.PARAM ENG_C = {1.0/(200.0*mod_pi*PLOC)}
RIN1 1 4 2
RIN2 1 4 2
G1   3 0 4 0 -0.01
R1   3 0 100
C1   3 0 {ENG_C}
E1   2 0 3 0 {SCALED_GAIN}
ROUT 2 0 {ENG_BIG_R}
EDUMMY1 AWBREALPOLE_DUMMY1 0 VALUE ={1} ERROR={ERROR(PLOC<=0,"POLE LOCATION EXPECTED TO BE GREATER THAN ZERO")}
.ENDS AWBREALPOLE
*$
*MODEL_TYPE=201
*SYMBOL_NAME=REAL_ZERO
*TERM(A)=1 -- IN
*TERM(B)=4 -- OUT
.SUBCKT AWBREALZERO 1 4 PARAMS: FREQ_HZ = 1K GAIN=1
.PARAM ZLOC={FREQ_HZ}
.PARAM SCALED_GAIN={GAIN}
.PARAM SQRTP={SQRT(ABS(SCALED_GAIN))}
.PARAM ENG_P={SQRTP}
.PARAM SQRTN1={SQRTP*ABS(SCALED_GAIN)}
.PARAM SQRTN={1E6*SQRTN1/SCALED_GAIN}
.PARAM ENG_N :={SQRTN}
.PARAM mod_pi = {3.1415926535897932384626433832795}
.PARAM ENG_C= {0.0000005 / (mod_pi*ZLOC)}
R10 1 5 1K
R20 1 5 1K
E1 2 0 5 0 {ENG_P}
R2 2 6 1MEG
C1 2 6 {ENG_C}
R3 6 3 10U
H1 4 0 V1 {ENG_N}
V1 3 0 0.0
ROUT 4 0 1K
.ENDS AWBREALZERO
*$
